US05362878
2-n-Nonyl-N-(2,4,6-trimethoxyphenyl)-1,2,3,4-tetrahydro-2-naphthamide
The title compound was prepared according to the procedure described in Example 65, except that 422 mg 2-n-nonyl-1,2,3,4-tetrahydro-2-naphthoyl chloride, 247 mg (1.3 mmole) 2,4,6-trimethoxyaniline, and 165 mg (1.3 mmole) 4-dimethylaminopyridine in 12 ml methylene chloride were stirred at room temperature for 20 hours. There was obtained 421 mg product (68% yield). IR(CHCl3) 1670 cm-1. 1H NMR: δ 0.87 (t, 3H); 1.25 (c, 12H); 1.5 (c, 3H); 1.85 (c, 2H); 2.21 (c, 1H); 2.8 (c, 2H); 3.0 (c, 1H); 3.3 (d, 1H); 3.66 (s, 6H); 3.75 (s, 3H); 6.06 (s, 2H); 6.56 (s, 1H); 7.1 (s, 4H).

reactant | 2-n-nonyl-1,2,3,4-tetrahydro-2-naphthoyl chloride | 422 mg | C(CCCCCCCC)C1(CC2=CC=CC=C2CC1)C(=O)Cl | C20H29ClO
reactant | 2,4,6-trimethoxyaniline | 1.3 mmole, 247 mg | COC1=C(N)C(=CC(=C1)OC)OC | C9H13NO3
catalyst | 4-dimethylaminopyridine | 1.3 mmole, 165 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-n-Nonyl-N-(2,4,6-trimethoxyphenyl)-1,2,3,4-tetrahydro-2-naphthamide | C(CCCCCCCC)C1(CC2=CC=CC=C2CC1)C(=O)NC1=C(C=C(C=C1OC)OC)OC | C29H41NO4
